US08377970B2
N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-(pyridin-2-yl)acetamide hydrochloride
Following the general procedure-1, N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}2-(pyridin-2-yl)acetamide (200 mg) was prepared from 2-(pyridin-2-yl)acetic acid (207 mg, 1.2 mmol) and intermediate 36 (200 mg, 0.75 mmol) as an off-white solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min. Solid that separated out was filtered and dried to give the title compound (210 mg) as an Off-white solid M.P.: 179-181° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.38 (s, 1H), 8.90 (dd, J 0.8, 5.7, 1H), 8.82 (d, J 2.5, 1H), 8.54 (t, J 6.7, 1H) 8.30 (dd, J 2.6, 8.8, 1H), 8.06 (d, J 8, 1H), 7.96 (t, J 6.7, 1H), 7.77 (d, J 8.8, 1H), 6.63 (s, 1H), 4.41 (s, 2H), 2.50-2.41 (m, 1H), 1.00-0.91 (m, 2H), 0.79-0.72 (m, 2H). MS (m/z): 385.60 [M−H—HCl]−.

reactant | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}2-(pyridin-2-yl)acetamide | 200 mg | C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(CC1=NC=CC=C1)=O)C(F)(F)F | C19H16F3N5O
reactant | 2-(pyridin-2-yl)acetic acid | 1.2 mmol, 207 mg | N1=C(C=CC=C1)CC(=O)O | C7H7NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-(pyridin-2-yl)acetamide hydrochloride | 210 mg | Cl.C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(CC1=NC=CC=C1)=O)C(F)(F)F | InChI=1S/C19H16F3N5O.ClH/c20-19(21,22)16-10-15(12-4-5-12)27(26-16)17-7-6-14(11-24-17)25-18(28)9-13-3-1-2-8-23-13;/h1-3,6-8,10-12H,4-5,9H2,(H,25,28);1H
